US04695581
1.32 g of 5-bromo-2-(4-hydroxy-3,5-dimethylphenyl)-3-methylindole and 0.54 g of copper cyanide were added to 10 ml of N-methylpyrrolidone, and the mixture was refluxed for 4 hours. To the reaction mixture was added ethyl acetate, and the mixture was washed with 20% aqueous ammonia solution and water, and dried. The solvent was evaporated, and the residue was purified by silica gel column chromatography. Recrystallization of the crude product from ether-petroleum ether gave 5-cyano-2-(4-hydroxy-3,5-dimethylphenyl)-3-methylindole.

reactant | 5-bromo-2-(4-hydroxy-3,5-dimethylphenyl)-3-methylindole | 1.32 g | BrC=1C=C2C(=C(NC2=CC1)C1=CC(=C(C(=C1)C)O)C)C | C17H16BrNO
reactant | copper cyanide | 0.54 g | [Cu](C#N)C#N
reactant | N-methylpyrrolidone | 10 ml | CN1C(CCC1)=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-cyano-2-(4-hydroxy-3,5-dimethylphenyl)-3-methylindole | C(#N)C=1C=C2C(=C(NC2=CC1)C1=CC(=C(C(=C1)C)O)C)C | C18H16N2O
